US05721347
A solution of 5-methoxy-2-indolylacetyl chloride (0.1 mol.) in dry tetrahydrofuran is treated with 0.25 mole of lithium aluminum tri-t-butoxy hydride with ice-cooling and stirring. After the initial reaction, the mixture is stirred at room temperature for 4 hours and poured into ice. Excess of acetic acid is added, and the product is extracted with ether. The ethereal solution is washed with sodium bicarbonate, dried over sodium sulfate, and evaporated to a syrup. Chromatography of the residue on a column of silica gel, using ether-petroleum ether (v./v.) 10-30% as eluent, gives 5-methoxy-2-indolyl acetaldehyde.

reactant | 5-methoxy-2-indolylacetyl chloride | 0.1 mol | COC=1C=C2C=C(NC2=CC1)CC(=O)Cl | C11H10ClNO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-methoxy-2-indolyl acetaldehyde | COC=1C=C2C=C(NC2=CC1)CC=O | C11H11NO2
